US09108969B2
Step C: Preparation of 2-(7-(4-Isopropoxy-3-(trifluoromethyl)benzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
To a solution of tert-butyl 2-(7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.366 g, 0.707 mmol) in dioxanes was added aq LiOH (3.0 mmol). The reaction was stirred at 75° C. for 16 h, diluted with EtOAc and washed with 1M HCl(aq), dried over MgSO4, filtered, and concentrated. The residue was triturated with hexanes to give the title compound as a solid (0.313 g). LCMS m/z=462.4 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.28 (d, J=5.94 Hz, 6H), 2.15 (s, 3H), 2.19-2.29 (m, 1H), 2.42-2.48 (m, 1H), 2.69-2.82 (m, 2H), 3.57-3.65 (m, 1H), 3.86-3.97 (m, 1H), 3.97-4.08 (m, 1H), 4.73-4.84 (m, 1H), 5.07 (s, 2H), 6.74 (dd, J=8.72, 2.40 Hz, 1H), 7.01 (d, J=2.40 Hz, 1H), 7.13 (d, J=8.59 Hz, 1H), 7.29 (d, J=9.22 Hz, 1H), 7.64-7.72 (m, 2H), 12.26 (bs, 1H).

reactant | tert-butyl 2-(7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.707 mmol, 0.366 g | C(C)(C)OC1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C)C=C1)C(F)(F)F | C29H34F3NO4
reactant | LiOH | 3.0 mmol | [Li+].[OH-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(7-(4-Isopropoxy-3-(trifluoromethyl)benzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 0.313 g | C(C)(C)OC1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)O)C)C=C1)C(F)(F)F | C25H26F3NO4
